US05508420
18.3 g (0.1 mol) of 4-methyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazole-3-thione are introduced into 100 ml of 2.5-molar sodium hydroxide solution. A hydrogen peroxide solution (34 ml of 30% strength hydrogen peroxide: 0.33 mol of H2O2) is slowly added dropwise at 40° C. to 50° C. and stirring of the mixture is continued for 2 hours at 50° C. Excess oxidant is then removed using sodium bisulphite, and the mixture is subsequently acidified using concentrated hydrochloric acid. The reaction mixture is then refluxed for 15 hours, subsequently stirred into ice-water and then extracted using methylene chloride. The extraction solution is dried using sodium sulphate and filtered. The solvent is carefully removed from the filtrate by distillation under a water pump vacuum. 11.3 g (68% of theory) of 4-methyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazol-3-one are obtained as a solid residue of melting point 64° C.

reactant | 4-methyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 0.1 mol, 18.3 g | CN1C(NN=C1C(F)(F)F)=S | C4H4F3N3S
reactant | hydrogen peroxide | 0.33 mol, 34 ml | OO | H2O2
solvent | sodium hydroxide | 2.5-molar, 100 ml | [OH-].[Na+]
product | 4-methyl-5-trifluoromethyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 11.3 g, 68% | CN1C(NN=C1C(F)(F)F)=O | C4H4F3N3O
